US04451471
10 g of 4,5-bis-(p-methoxyphenyl)-thiazoline-2-thione are dissolved in 50 ml of hexamethylphosphoric acid triamide, the solution is cooled to 5° and, while stirring, sodium hydride (1.45 g of a 50% strength suspension in mineral oil, de-oiled with hexane) is added. The mixture is then stirred for 30 minutes at room temperature, 5.22 g of 2-iodoethanol are added dropwise thereto, and the mixture is then stirred for 15 minutes at room temperature and poured into a mixture of 30 ml of 2 N hydrochloric acid and 400 ml of ice-water. After being left to stand for some time the oil which separates crystallises and is taken up in 200 ml of methylene chloride. The solution is dried over magnesium sulphate and concentrated to dryness by evaporation. To crystallise, the residue is triturated with diethyl ether. 2-(2-hydroxyethylthio)-4,5-bis-(p-methoxyphenyl)-thiazole having a melting point of 83°-84° is obtained.

reactant | 4,5-bis-(p-methoxyphenyl)-thiazoline-2-thione | 10 g | COC1=CC=C(C=C1)C1=NC(SC1C1=CC=C(C=C1)OC)=S | C17H15NO2S2
reactant | sodium hydride | [H-].[Na+]
reactant | 2-iodoethanol | 5.22 g | ICCO | C2H5IO
reactant | hydrochloric acid | 2 N, 30 ml | Cl | ClH
solvent | hexamethylphosphoric acid triamide | 50 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | hexane | CCCCCC | C6H14
product | 2-(2-hydroxyethylthio)-4,5-bis-(p-methoxyphenyl)-thiazole | OCCSC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C19H19NO3S2
